US07211587B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-N′-(5-methyl-3-isoxazolyl)urea hydrochloride
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoroaniline (800 mg) was dissolved in chloroform (20 ml) and triethylamine (1.0 ml) to prepare a solution. A solution of triphosgene (378 mg) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 10 min. Next, 3-amino-5-methylisoxazole (294 mg) was added thereto, and the mixture was further stirred at room temperature overnight. Iced water was added to the reaction solution, and the mixture was extracted with chloroform. The organic layer was washed with water and saturated brine and was then dried over anhydrous sodium sulfate. The dried organic layer was filtered and was then concentrated. Ether was added to the residue for crystallization, and the crystal was collected by filtration. The collected solid was purified by chromatography (chloroform:acetone=2:1). A 10% solution of hydrogen chloride in methanol was added to the purification product, followed by concentration. The resultant crystal was washed with ether to give 598 mg of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoroaniline | 800 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(N)C=C1)F | C17H15FN2O3
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 378 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-amino-5-methylisoxazole | 294 mg | NC1=NOC(=C1)C | C4H6N2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-N′-(5-methyl-3-isoxazolyl)urea hydrochloride | 598 mg | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)NC1=NOC(=C1)C)F | InChI=1S/C22H19FN4O5.ClH/c1-12-8-21(27-32-12)26-22(28)25-13-4-5-18(15(23)9-13)31-17-6-7-24-16-11-20(30-3)19(29-2)10-14(16)17;/h4-11H,1-3H3,(H2,25,26,27,28);1H
